US04906628
5-Methyl-6-[4-(4-oxo-1,4-dihydropyridin-1-yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone
A mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (101 mg), 1,5-bis(dimethylamino)-1,4-pentadien-3-one (84 mg) and hydrochloric acid (1N, 0.5 ml) in water (1.5 ml) was stirred at room temperature for 4 hours. More hydrochloric acid (1N, 0.5 ml) was added and the reaction mixture was stirred at room temperature for 18 hours and then under reflux for 4 hours to afford a quantity of red insoluble material. The hot aqueous solvent was decanted off from the insoluble material, was allowed to cool and was seeded to afford the title compound, 41 mg, m.p. 245°-249° C.

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 101 mg | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 1,5-bis(dimethylamino)-1,4-pentadien-3-one | 84 mg | CN(C=CC(C=CN(C)C)=O)C | C9H16N2O
reactant | hydrochloric acid | 1N, 0.5 ml | Cl | ClH
reactant | hydrochloric acid | 1N, 0.5 ml | Cl | ClH
solvent | water | 1.5 ml | O | H2O
product | 5-Methyl-6-[4-(4-oxo-1,4-dihydropyridin-1-yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | CC1CC(NN=C1C1=CC=C(C=C1)N1C=CC(C=C1)=O)=O | C16H15N3O2
